US08058285B2
4.0 g (14 mmol) 6-mercapto-4-methyl-2-(4-iso-propoxy-phenyl)-pyrimidine-5-carbonitrile and 1.6 g (17 mmol) 2-chloroacetamide are suspended in 100 ml ethanol and 1.9 g (28 mmol) sodium ethylate is admixed. The reaction mixture is refluxed for 3 h. It is filtrated, washed with ethanol and water and dried. 1.5 g (31%) 5-amino-4-methyl-2-(4-iso-propoxy-phenyl)-thieno[2,3-d]pyrimidine-6-carboxamide is obtained.

reactant | 6-mercapto-4-methyl-2-(4-iso-propoxy-phenyl)-pyrimidine-5-carbonitrile | 14 mmol, 4.0 g | SC1=C(C(=NC(=N1)C1=CC=C(C=C1)OC(C)C)C)C#N | C15H15N3OS
reactant | 2-chloroacetamide | 17 mmol, 1.6 g | ClCC(=O)N | C2H4ClNO
reactant | sodium ethylate | 28 mmol, 1.9 g | CC[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-amino-4-methyl-2-(4-iso-propoxy-phenyl)-thieno[2,3-d]pyrimidine-6-carboxamide | 1.5 g, 31% | NC1=C(SC=2N=C(N=C(C21)C)C2=CC=C(C=C2)OC(C)C)C(=O)N | C17H18N4O2S
